US07572809B2
e) Preparation of 5,6-Bis-(2-methoxy-ethoxy)-indan-1,2-dione 2-oxime
To a solution of 5,6-Bis-(2-methoxy-ethoxy)-indan-1-one (2.6 g, 9.28 mmol) in the methanol (20 ml) was added n-butylnitrite (1.25 ml, 10.2 mmol) followed by concentrated HCl (0.8 ml). The solution was stirred at room temperature overnight during which time a precipitate was formed. The precipitate was collected and dried to yield product as a yellow solid (1.11 g, 38.58%). LC-MS: m/e 310 (MH+).

reactant | 5,6-Bis-(2-methoxy-ethoxy)-indan-1-one | 9.28 mmol, 2.6 g | COCCOC=1C=C2CCC(C2=CC1OCCOC)=O | C15H20O5
reactant | n-butylnitrite | 10.2 mmol, 1.25 ml | C(CCC)ON=O | C4H9NO2
reactant | HCl | 0.8 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 5,6-Bis-(2-methoxy-ethoxy)-indan-1,2-dione 2-oxime | 1.11 g, 38.58% | COCCOC=1C=C2CC(C(C2=CC1OCCOC)=O)=NO | C15H19NO6
